R1 ( net26 net14)  R=5.2E4
T2 ( net14 net38 vdd! vdd!)  pfet  L=1.71E-6 W=3.87E-6
T3 ( net46 net38 vdd! vdd!)  pfet  L=1.71E-6 W=3.87E-6
T4 ( net25 net14 net46 vdd!)  pfet  L=1.71E-6 W=3.87E-6
T5 (net36 net10 net10 0) pfet L=8.36E-6 W=5.57E-6
T6 ( net29 net29 vdd! vdd!)  pfet  L=2.23E-6 W=7.56E-6
T7 ( net32 net29 vdd! vdd!)  pfet  L=2.23E-6 W=7.56E-6
R8 ( net32 net4)  R=5.8E3
R9 (net23 0) R=3.7E6
T10 (net11 net48 net48 0) pfet L=4.58E-6 W=1.39E-6
T11 (net25 net16 net16 0) pfet L=5.88E-6 W=7.17E-6
T12 (net34 net17 net17 0) nfet L=0.11E-6 W=6.82E-6
C13 (net26 net34) C=8.9E-10
C14 (net1 net21) C=2.4E-12
R15 (net20 net28) R=8.7E4
T16 (net15 net8 net8 0) pfet L=8.29E-6 W=8.25E-6
T17 (net16 net6 net6 0) pfet L=0.81E-6 W=3.86E-6
C18 (net43 net5) C=0.9E-7
R19 (net42 net26) R=6.8E5
C20 (net45 net22) C=2.8E-10
T21 (net37 net1 net1 0) pfet L=5.38E-6 W=7.39E-6
T22 (net12 net29 net29 0) pfet L=3.11E-6 W=6.73E-6
R23 (0 net28) R=0.4E2
R24 (net21 net36) R=3.6E0
R25 (net10 net16) R=3.5E1
C26 (net41 net33) C=6.8E-6
T27 (net18 net18 net18 0) pfet L=9.95E-6 W=3.35E-6
R28 (net30 net9) R=3.1E3
R29 (net4 net30) R=9.2E0
R30 (net13 vdd!) R=1.3E5
C31 (vdd! net5) C=1.4E-14
T32 (net39 net45 net45 0) nfet L=9.25E-6 W=5.82E-6
T33 (net30 net40 net40 0) pfet L=3.87E-6 W=3.14E-6
C34 (net37 net29) C=3.0E-12
R35 (net16 net36) R=7.3E6
T36 (net43 net10 net10 0) pfet L=0.79E-6 W=7.81E-6
R37 (net4 net26) R=5.0E6
C38 (net12 net18) C=8.6E-6
R39 (net9 net49) R=4.8E3
T40 (net41 net13 net13 0) nfet L=7.32E-6 W=0.78E-6
C41 (net11 net16) C=0.8E-7
R42 (net10 net18) R=7.6E2
C43 (net10 net31) C=1.7E-8
T44 (net48 net9 net9 0) pfet L=2.63E-6 W=2.38E-6
T45 (net24 net1 net1 0) nfet L=7.21E-6 W=3.86E-6
T46 (net3 0 0 0) pfet L=3.73E-6 W=4.15E-6
T47 (net5 0 0 0) pfet L=8.40E-6 W=3.98E-6
T48 (net28 net11 net11 0) pfet L=2.96E-6 W=6.17E-6
T49 (net42 net17 net17 0) pfet L=1.38E-6 W=7.41E-6
T50 (net17 net25 net25 0) nfet L=0.27E-6 W=6.56E-6
T51 (net19 net34 net34 0) pfet L=10.00E-6 W=8.07E-6
R52 (net25 net34) R=5.5E2
T53 (net39 net42 net42 0) pfet L=2.06E-6 W=8.86E-6
T54 (net33 net36 net36 0) pfet L=4.13E-6 W=4.05E-6
T55 (net21 net10 net10 0) nfet L=0.10E-6 W=4.16E-6
C56 (net2 net35) C=7.1E-12
T57 (net18 net8 net8 0) nfet L=1.50E-6 W=9.16E-6
T58 (net21 net18 net18 0) nfet L=7.96E-6 W=1.44E-6
R59 (net1 net17) R=3.5E4
R60 (net34 vdd!) R=5.3E1
T61 (net44 net41 net41 0) pfet L=0.16E-6 W=1.86E-6
T62 (net44 0 0 0) nfet L=7.24E-6 W=8.79E-6
T63 (net7 net41 net41 0) pfet L=8.82E-6 W=6.99E-6
R64 (net43 net36) R=3.5E3
C65 (net43 net50) C=9.0E-7
T66 (net31 net48 net48 0) pfet L=7.14E-6 W=1.47E-6
R67 (net17 net41) R=7.3E5
R68 (net26 net33) R=1.7E2
T69 (net34 net19 net19 0) pfet L=2.67E-6 W=5.73E-6
R70 (net25 net43) R=1.5E4
R71 (net5 net15) R=7.1E3
T72 (net42 net5 net5 0) pfet L=7.82E-6 W=7.87E-6
C73 (net36 net8) C=8.0E-9
C74 (net8 net50) C=6.4E-13
T75 (net10 net26 net26 0) pfet L=0.48E-6 W=3.25E-6
C76 (net29 net4) C=6.5E-8
T77 (net12 net18 net18 0) pfet L=4.01E-6 W=3.62E-6
C78 (net10 net42) C=0.7E-13
T79 (net39 net47 net47 0) nfet L=8.04E-6 W=4.93E-6
T80 (vdd! net33 net33 0) pfet L=4.51E-6 W=5.97E-6
T81 (net16 net36 net36 0) pfet L=4.64E-6 W=2.82E-6
T82 (net42 net29 net29 0) pfet L=3.20E-6 W=7.13E-6
C83 (net30 net49) C=3.5E-11
T84 (net37 net45 net45 0) pfet L=2.83E-6 W=8.32E-6
T85 (net21 net29 net29 0) nfet L=3.77E-6 W=5.82E-6
T86 (net44 net20 net20 0) nfet L=8.87E-6 W=5.25E-6
T87 (net25 net11 net11 0) nfet L=9.34E-6 W=6.94E-6
C88 (net31 net22) C=2.7E-11
C89 (net4 net12) C=2.6E-10
C90 (net36 net44) C=8.9E-7
C91 (vdd! 0) C=8.4E-7
C92 (net42 net5) C=4.1E-7
C93 (net42 net33) C=4.5E-14
C94 (net18 net41) C=5.9E-9
R95 (net10 net21) R=3.7E3
R96 (net1 vdd!) R=7.7E1
C97 (net40 net5) C=4.5E-10
C98 (vdd! 0) C=4.4E-12
C99 (net37 net8) C=8.3E-13
T100 (net49 0 0 0) pfet L=8.81E-6 W=7.74E-6
T101 (net22 net34 net34 0) pfet L=9.93E-6 W=3.20E-6
T102 (net18 net2 net2 0) pfet L=6.44E-6 W=1.32E-6
T103 (net47 vdd! vdd! 0) nfet L=8.22E-6 W=6.12E-6
C104 (net8 net7) C=2.6E-7
T105 (net10 0 0 0) nfet L=7.56E-6 W=4.09E-6
R106 (vdd! net10) R=7.5E2
T107 (net39 net21 net21 0) nfet L=5.29E-6 W=6.60E-6
T108 (net12 net35 net35 0) pfet L=3.83E-6 W=7.74E-6
C109 (net17 vdd!) C=5.7E-14
T110 (net22 net43 net43 0) nfet L=5.44E-6 W=1.49E-6
T111 (0 net19 net19 0) nfet L=3.70E-6 W=5.41E-6
T112 (net26 net16 net16 0) nfet L=0.97E-6 W=5.47E-6
T113 (net22 net33 net33 0) pfet L=8.13E-6 W=8.33E-6
T114 (net9 net23 net23 0) nfet L=3.05E-6 W=4.42E-6
C115 (net31 net47) C=6.3E-13
T116 (net27 net5 net5 0) nfet L=4.16E-6 W=1.88E-6
R117 (vdd! 0) R=7.5E3
T118 (0 net22 net22 0) nfet L=0.21E-6 W=6.71E-6
C119 (net9 net15) C=4.3E-10
C120 (net40 net29) C=9.2E-11
T121 (net23 net10 net10 0) nfet L=9.17E-6 W=5.67E-6
C122 (net13 net42) C=9.9E-9
T123 (net26 net33 net33 0) nfet L=9.01E-6 W=7.18E-6
T124 (net26 net37 net37 0) pfet L=9.80E-6 W=3.09E-6
T125 (net12 0 0 0) nfet L=7.35E-6 W=4.27E-6
T126 (net48 net43 net43 0) pfet L=3.61E-6 W=4.88E-6
T127 (net40 net42 net42 0) pfet L=7.28E-6 W=6.76E-6
C128 (net34 net10) C=3.0E-11
T129 (net8 net41 net41 0) pfet L=0.90E-6 W=9.53E-6
C130 (net50 net8) C=1.2E-5
R131 (net41 vdd!) R=3.9E0
T132 (net45 net27 net27 0) pfet L=4.29E-6 W=9.76E-6
C133 (net11 net25) C=9.5E-13
C134 (0 net34) C=9.2E-10
T135 (net7 net29 net29 0) pfet L=6.38E-6 W=2.13E-6
T136 (net24 0 0 0) pfet L=7.55E-6 W=0.79E-6
T137 (net20 net41 net41 0) pfet L=1.59E-6 W=8.75E-6
C138 (net8 net20) C=8.5E-7
T139 (net3 net9 net9 0) pfet L=8.24E-6 W=0.22E-6
T140 (net48 0 0 0) pfet L=8.48E-6 W=0.38E-6
T141 (net24 net22 net22 0) pfet L=4.82E-6 W=0.75E-6
T142 (net6 net34 net34 0) nfet L=7.86E-6 W=6.52E-6
R143 (net11 net12) R=6.7E5
R144 (net7 net43) R=6.3E2
R145 (net17 net35) R=2.9E2
R146 (net8 0) R=2.7E6
T147 (net4 net4 net4 0) pfet L=2.58E-6 W=3.12E-6
T148 (net4 net28 net28 0) pfet L=7.49E-6 W=6.22E-6
T149 (net12 net35 net35 0) nfet L=3.29E-6 W=4.95E-6
T150 (net48 net25 net25 0) nfet L=4.59E-6 W=8.24E-6
C151 (net24 0) C=0.3E-12
T152 (net15 net8 net8 0) pfet L=4.19E-6 W=5.79E-6
T153 (vdd! net20 net20 0) nfet L=4.31E-6 W=6.23E-6
T154 (net8 net24 net24 0) pfet L=3.03E-6 W=2.45E-6
C155 (net20 net41) C=9.5E-12
T156 (net33 net45 net45 0) nfet L=1.84E-6 W=7.07E-6
T157 (net18 net22 net22 0) pfet L=4.91E-6 W=8.23E-6
T158 (net21 net37 net37 0) pfet L=8.52E-6 W=2.98E-6
C159 (net13 net16) C=9.3E-12
T160 (net18 net44 net44 0) pfet L=4.94E-6 W=1.38E-6
T161 (net20 net16 net16 0) nfet L=4.41E-6 W=6.77E-6
C162 (net31 net17) C=2.7E-8
R163 (net45 net13) R=1.8E2
T164 (net1 net19 net19 0) nfet L=5.10E-6 W=2.47E-6
T165 (net40 vdd! vdd! 0) pfet L=3.87E-6 W=9.97E-6
R166 (net39 net31) R=1.9E3
T167 (net11 net24 net24 0) nfet L=9.67E-6 W=7.00E-6
T168 (net19 net19 net19 0) nfet L=9.52E-6 W=5.00E-6
C169 (net31 net30) C=1.9E-5
T170 (net19 net33 net33 0) pfet L=1.97E-6 W=3.23E-6
T171 (vdd! net22 net22 0) pfet L=9.89E-6 W=0.68E-6
R172 (net35 net36) R=1.8E5
T173 (net10 net4 net4 0) pfet L=3.52E-6 W=4.05E-6
T174 (net25 net28 net28 0) pfet L=5.00E-6 W=7.03E-6
C175 (net2 net37) C=3.6E-6
C176 (net31 net17) C=0.3E-6
R177 (net35 net6) R=1.8E0
T178 (net49 net23 net23 0) nfet L=1.07E-6 W=5.12E-6
R179 (net47 net1) R=7.1E0
T180 (vdd! net16 net16 0) nfet L=5.94E-6 W=2.59E-6
T181 (net49 net21 net21 0) nfet L=8.16E-6 W=6.51E-6
T182 (net1 net45 net45 0) pfet L=3.17E-6 W=6.28E-6
C183 (net37 net27) C=0.8E-13
C184 (net1 net21) C=2.7E-9
C185 (0 net43) C=6.5E-8
T186 (0 vdd! vdd! 0) nfet L=8.80E-6 W=4.04E-6
C187 (net2 net4) C=8.9E-14
C188 (net18 net49) C=7.0E-11
T189 (net30 net13 net13 0) pfet L=2.33E-6 W=8.07E-6
T190 (0 net22 net22 0) nfet L=5.81E-6 W=1.91E-6
T191 (net40 vdd! vdd! 0) nfet L=4.60E-6 W=9.02E-6
T192 (net48 net44 net44 0) pfet L=7.35E-6 W=2.80E-6
R193 (vdd! net30) R=5.5E6
C194 (net36 net16) C=3.0E-14
T195 (net9 net30 net30 0) pfet L=9.28E-6 W=3.80E-6
R196 (net22 net18) R=0.4E6
T197 (0 net42 net42 0) nfet L=6.53E-6 W=1.29E-6
T198 (net31 net30 net30 0) nfet L=0.56E-6 W=5.52E-6
T199 (net4 net30 net30 0) pfet L=1.15E-6 W=2.27E-6
T200 (net25 net24 net24 0) pfet L=2.30E-6 W=2.43E-6
T201 (net34 net22 net22 0) nfet L=3.72E-6 W=4.85E-6
C202 (net24 vdd!) C=2.4E-5
R203 (net40 net49) R=0.7E0
T204 (net43 0 0 0) nfet L=1.58E-6 W=4.41E-6
T205 (net47 net6 net6 0) pfet L=2.63E-6 W=7.19E-6
T206 (net27 net10 net10 0) pfet L=6.52E-6 W=9.29E-6
T207 (net5 net47 net47 0) pfet L=7.35E-6 W=5.05E-6
T208 (net29 net15 net15 0) nfet L=1.64E-6 W=2.78E-6
T209 (net10 net39 net39 0) nfet L=0.35E-6 W=4.08E-6
T210 (net29 net7 net7 0) pfet L=3.65E-6 W=1.69E-6
T211 (net47 net44 net44 0) pfet L=1.00E-6 W=9.08E-6
T212 (net48 net35 net35 0) nfet L=8.91E-6 W=5.02E-6
T213 (net49 net42 net42 0) pfet L=7.09E-6 W=4.43E-6
T214 (net3 0 0 0) nfet L=5.22E-6 W=4.41E-6
T215 (net33 net12 net12 0) nfet L=3.88E-6 W=9.90E-6
C216 (net2 net42) C=6.6E-10
C217 (net8 vdd!) C=1.4E-7
T218 (net13 net23 net23 0) nfet L=0.12E-6 W=0.64E-6
T219 (net23 net27 net27 0) pfet L=2.77E-6 W=5.72E-6
T220 (net5 net18 net18 0) nfet L=5.94E-6 W=3.51E-6
C221 (net50 net4) C=1.3E-6
T222 (net28 net40 net40 0) nfet L=5.98E-6 W=0.78E-6
C223 (net3 net17) C=5.0E-8
T224 (net13 net5 net5 0) nfet L=8.94E-6 W=5.03E-6
T225 (0 net35 net35 0) nfet L=0.42E-6 W=7.96E-6
C226 (net3 net22) C=2.9E-6
C227 (net12 0) C=3.0E-7
R228 (net17 vdd!) R=1.7E1
T229 (net1 net13 net13 0) pfet L=9.94E-6 W=7.21E-6
R230 (net8 vdd!) R=6.7E6
T231 (net43 net33 net33 0) pfet L=5.19E-6 W=7.17E-6
R232 (net13 net7) R=8.9E5
T233 (net39 net22 net22 0) nfet L=1.24E-6 W=7.12E-6
C234 (net5 vdd!) C=1.7E-12
C235 (net41 net15) C=8.1E-14
C236 (net44 net42) C=4.3E-6
T237 (net35 net17 net17 0) pfet L=5.04E-6 W=0.84E-6
T238 (net3 0 0 0) pfet L=3.01E-6 W=8.68E-6
R239 (net16 net8) R=5.5E4
T240 (net4 net31 net31 0) nfet L=2.90E-6 W=4.90E-6
T241 (net21 net15 net15 0) pfet L=6.37E-6 W=3.70E-6
R242 (net16 net31) R=3.8E3
T243 (net17 net36 net36 0) pfet L=5.01E-6 W=7.89E-6
T244 (net9 net10 net10 0) nfet L=2.88E-6 W=1.00E-6
C245 (net17 net22) C=8.2E-8
T246 (net49 net18 net18 0) nfet L=1.39E-6 W=0.15E-6
T247 (net43 net49 net49 0) nfet L=5.91E-6 W=5.58E-6
T248 (net28 net23 net23 0) pfet L=4.86E-6 W=2.77E-6
T249 (net42 net11 net11 0) nfet L=3.80E-6 W=5.95E-6
T250 (net48 net18 net18 0) nfet L=6.70E-6 W=9.72E-6
T251 (net26 net44 net44 0) pfet L=2.55E-6 W=9.23E-6
T252 (0 net31 net31 0) pfet L=4.78E-6 W=2.67E-6
T253 (net6 net41 net41 0) pfet L=3.58E-6 W=4.46E-6
R254 (net49 0) R=7.7E0
C255 (net48 net45) C=4.8E-7
R256 (net33 net50) R=2.2E5
T257 (net33 net37 net37 0) pfet L=0.68E-6 W=2.34E-6
T258 (net26 net5 net5 0) pfet L=8.13E-6 W=7.26E-6
T259 (net21 net42 net42 0) nfet L=4.88E-6 W=1.96E-6
R260 (net9 0) R=1.6E3

