T1 (net25 net21 net21 0) pfet L=5.39E-6 W=5.82E-6
R2 ( net46 net47)  R=7.6E4
T3 ( net47 net47 net17 0)  nfet  L=0.74E-6 W=1.13E-6
T4 ( net17 net38 0 0)  nfet  L=0.74E-6 W=1.13E-6
T5 ( net38 net38 0 0)  nfet  L=0.74E-6 W=1.13E-6
T6 ( net29 net47 net38 0)  nfet  L=0.74E-6 W=1.13E-6
C7 (net15 net5) C=8.5E-7
C8 (net44 net11) C=3.0E-9
R9 (net23 net34) R=4.5E3
R10 ( net37 net9)  R=3.4E5
T11 ( net9 net9 0 0)  nfet  L=2.36E-6 W=7.82E-6
T12 ( net2 net9 0 0)  nfet  L=2.36E-6 W=7.82E-6
T13 (net37 net39 net39 0) nfet L=6.12E-6 W=4.59E-6
T14 (net18 net29 net29 0) pfet L=5.74E-6 W=4.29E-6
T15 (net42 net42 net42 0) nfet L=1.00E-6 W=6.65E-6
C16 (net27 net54) C=1.4E-8
R17 (net4 net52) R=3.2E2
R18 (net2 net26) R=7.6E2
C19 (net10 net53) C=4.8E-14
C20 (net20 net16) C=8.2E-5
T21 (net42 net12 net12 0) nfet L=9.25E-6 W=9.04E-6
T22 (vdd! 0 0 0) pfet L=8.41E-6 W=4.23E-6
R23 (vdd! net53) R=1.3E4
T24 (net48 net27 net27 0) pfet L=5.28E-6 W=6.96E-6
C25 (net6 net36) C=6.6E-10
C26 (net40 0) C=1.2E-7
T27 (net14 net53 net53 0) pfet L=2.23E-6 W=3.20E-6
T28 (net26 vdd! vdd! 0) nfet L=8.57E-6 W=4.53E-6
T29 (net45 net7 net7 0) nfet L=1.46E-6 W=5.50E-6
T30 (net50 net30 net30 0) pfet L=3.88E-6 W=8.82E-6
C31 (net37 net51) C=9.1E-11
C32 (net32 net28) C=0.9E-11
R33 (net34 net3) R=3.3E2
C34 (net41 net2) C=5.1E-13
R35 (net7 net53) R=5.7E0
C36 (net41 net10) C=3.4E-12
R37 (net36 net44) R=6.3E0
C38 (net12 net13) C=5.1E-6
T39 (net4 0 0 0) nfet L=8.74E-6 W=8.54E-6
T40 (net29 0 0 0) nfet L=4.53E-6 W=2.74E-6
C41 (net43 net49) C=3.7E-11
T42 (net14 net11 net11 0) nfet L=5.10E-6 W=4.28E-6
T43 (net45 net37 net37 0) pfet L=6.55E-6 W=6.85E-6
C44 (net34 vdd!) C=2.6E-13
C45 (net35 net15) C=3.0E-7
T46 (net18 0 0 0) nfet L=6.19E-6 W=6.99E-6
R47 (net48 net6) R=5.4E5
T48 (net15 net20 net20 0) pfet L=0.76E-6 W=4.01E-6
R49 (net31 net22) R=2.5E3
C50 (net25 net41) C=6.2E-7
T51 (net22 net29 net29 0) nfet L=9.09E-6 W=6.49E-6
C52 (net32 net29) C=1.2E-8
C53 (net4 net37) C=9.9E-14
C54 (net13 net18) C=3.6E-14
R55 (net11 net13) R=8.6E2

