R1 ( 0 net13)  R=1.9E5
T2 ( net13 net13 net6 vdd!)  pfet  L=6.68E-6 W=2.79E-6
T3 ( net6 net7 vdd! vdd!)  pfet  L=6.68E-6 W=2.79E-6
T4 ( net7 net7 vdd! vdd!)  pfet  L=6.68E-6 W=2.79E-6
T5 ( 0 net13 net7 vdd!)  pfet  L=6.68E-6 W=2.79E-6
T6 (net2 net16 net16 0) pfet L=3.73E-6 W=1.77E-6
R7 ( net10 net12)  R=1.0E3
T8 ( net12 net11 vdd! vdd!)  pfet  L=2.15E-6 W=1.58E-6
T9 ( net8 net11 vdd! vdd!)  pfet  L=2.15E-6 W=1.58E-6
T10 ( net14 net12 net8 vdd!)  pfet  L=2.15E-6 W=1.58E-6
T11 (net17 net14 net14 0) nfet L=4.96E-6 W=5.83E-6
T12 (net16 net10 net10 0) pfet L=3.63E-6 W=2.16E-6

