C1 (net19 0) C=5.4E-12
R2 ( net3 net2)  R=0.6E3
T3 ( net2 net2 net8 vdd!)  pfet  L=1.00E-6 W=1.10E-6
T4 ( net8 net21 vdd! vdd!)  pfet  L=1.00E-6 W=1.10E-6
T5 ( net21 net21 vdd! vdd!)  pfet  L=1.00E-6 W=1.10E-6
T6 ( net20 net2 net21 vdd!)  pfet  L=1.00E-6 W=1.10E-6
R7 (net10 net5) R=1.2E4
C8 (0 net10) C=5.4E-10
T9 ( net18 net18 0 0)  nfet  L=6.59E-6 W=8.83E-6
T10 ( net4 net18 0 0)  nfet  L=6.59E-6 W=8.83E-6
R11 ( net4 net12)  R=4.0E4
T12 (net19 vdd! vdd! 0) pfet L=5.20E-6 W=2.66E-6
R13 (net15 net11) R=7.3E6
C14 (net15 net18) C=3.6E-11
C15 (net11 net5) C=5.2E-8
T16 (net10 net5 net5 0) nfet L=1.55E-6 W=7.71E-6
T17 (net3 net17 net17 0) pfet L=9.71E-6 W=5.84E-6
R18 (net5 net14) R=8.6E0
T19 (vdd! net1 net1 0) nfet L=6.37E-6 W=2.97E-6
T20 (net5 net18 net18 0) pfet L=6.19E-6 W=8.76E-6
C21 (net10 net5) C=1.1E-5
T22 (net17 net16 net16 0) pfet L=7.08E-6 W=3.63E-6

