R1 ( net45 net42)  R=5.3E2
T2 ( net42 net7 0 0)  nfet  L=3.73E-6 W=5.99E-6
T3 ( net10 net7 0 0)  nfet  L=3.73E-6 W=5.99E-6
T4 ( vdd! net42 net7 0)  nfet  L=3.73E-6 W=5.99E-6
T5 (net19 net10 net10 0) pfet L=7.90E-6 W=1.09E-6
T6 ( net26 net26 vdd! vdd!)  pfet  L=0.37E-6 W=5.53E-6
T7 ( net22 net26 vdd! vdd!)  pfet  L=0.37E-6 W=5.53E-6
R8 ( net22 net11)  R=8.6E3
T9 (net6 net23 net23 0) pfet L=4.78E-6 W=8.61E-6
C10 (0 net13) C=0.2E-11
R11 (net21 net47) R=6.3E5
T12 (net14 net46 net46 0) pfet L=3.53E-6 W=3.46E-6
T13 (net43 net5 net5 0) nfet L=7.39E-6 W=1.83E-6
C14 (net20 0) C=3.9E-7
R15 (net3 net15) R=9.2E2
T16 (net31 net34 net34 0) pfet L=7.69E-6 W=1.42E-6
T17 (net8 net19 net19 0) nfet L=6.24E-6 W=7.42E-6
T18 (net24 net15 net15 0) nfet L=4.41E-6 W=7.42E-6
C19 (net14 0) C=3.8E-6
T20 (net32 0 0 0) pfet L=1.32E-6 W=3.06E-6
C21 (net32 net40) C=6.4E-14
T22 (net38 net17 net17 0) nfet L=8.18E-6 W=8.42E-6
R23 (net6 net34) R=9.5E6
T24 (net3 net23 net23 0) pfet L=9.57E-6 W=8.16E-6
R25 (vdd! net38) R=8.3E3
T26 (net2 net14 net14 0) pfet L=2.91E-6 W=9.56E-6
T27 (net34 net28 net28 0) pfet L=3.47E-6 W=0.94E-6
R28 (net44 net15) R=6.7E2
T29 (net26 net4 net4 0) nfet L=8.75E-6 W=7.86E-6
R30 (net48 net20) R=3.1E3
C31 (net27 net28) C=5.9E-12
T32 (net38 net2 net2 0) nfet L=0.30E-6 W=6.03E-6
T33 (net44 net28 net28 0) nfet L=0.85E-6 W=4.41E-6
R34 (net47 net45) R=7.2E6
R35 (net40 0) R=6.4E3
T36 (net4 net37 net37 0) pfet L=1.98E-6 W=9.73E-6
R37 (net4 net17) R=8.4E2
T38 (net10 net9 net9 0) nfet L=8.59E-6 W=5.64E-6
T39 (net32 net17 net17 0) pfet L=9.66E-6 W=9.57E-6
R40 (net21 net43) R=7.6E4
T41 (net18 net21 net21 0) pfet L=4.74E-6 W=5.26E-6
C42 (net16 net33) C=3.0E-6
R43 (net19 net26) R=8.7E4
T44 (net18 net13 net13 0) pfet L=4.69E-6 W=3.27E-6
C45 (net48 net33) C=7.0E-9
T46 (net12 net32 net32 0) pfet L=1.58E-6 W=6.36E-6
T47 (net21 net30 net30 0) pfet L=3.15E-6 W=1.41E-6

