C1 (net11 net5) C=6.7E-7
T2 ( vdd! vdd! vdd! vdd!)  pfet  L=4.32E-6 W=6.46E-6
T3 ( net11 vdd! vdd! vdd!)  pfet  L=4.32E-6 W=6.46E-6
R4 ( net11 net7)  R=6.9E2
R5 (net2 net3) R=8.6E0
T6 (net4 net1 net1 0) nfet L=5.15E-6 W=5.27E-6
R7 ( net4 net10)  R=1.8E5
T8 ( net10 net10 net13 0)  nfet  L=2.82E-6 W=2.71E-6
T9 ( net13 net1 0 0)  nfet  L=2.82E-6 W=2.71E-6
T10 ( net1 net1 0 0)  nfet  L=2.82E-6 W=2.71E-6
T11 ( net9 net10 net1 0)  nfet  L=2.82E-6 W=2.71E-6
T12 (net4 net12 net12 0) nfet L=1.17E-6 W=2.76E-6
R13 (net5 net3) R=0.6E4
T14 (net9 0 0 0) pfet L=2.30E-6 W=7.58E-6
T15 (net6 net6 net6 0) pfet L=2.59E-6 W=0.36E-6
T16 (vdd! net5 net5 0) nfet L=6.49E-6 W=7.18E-6
T17 (net12 net9 net9 0) nfet L=4.21E-6 W=7.46E-6
T18 (net8 vdd! vdd! 0) nfet L=4.13E-6 W=8.38E-6
R19 (net3 net2) R=6.3E4
T20 (net9 net3 net3 0) nfet L=1.90E-6 W=7.60E-6
R21 (net9 net4) R=9.2E1
T22 (net3 net5 net5 0) pfet L=3.60E-6 W=9.71E-6
C23 (net3 net7) C=3.8E-7
T24 (net12 net12 net12 0) nfet L=9.19E-6 W=3.88E-6
R25 (net4 net8) R=8.9E0
C26 (net5 net12) C=3.0E-13
T27 (net7 net6 net6 0) nfet L=3.01E-6 W=4.58E-6
T28 (net5 net6 net6 0) pfet L=7.21E-6 W=3.23E-6
T29 (net4 net2 net2 0) pfet L=0.40E-6 W=1.95E-6

