C1 (net3 net13) C=5.9E-9
R2 (net1 net17) R=7.0E1
R3 (net9 net15) R=6.3E6
R4 (net11 net18) R=1.9E3
R5 (net7 net11) R=1.3E5
R6 ( net11 net3)  R=5.7E4
T7 ( net3 net3 0 0)  nfet  L=2.58E-6 W=6.53E-6
T8 ( net8 net3 0 0)  nfet  L=2.58E-6 W=6.53E-6
T9 (net15 net6 net6 0) nfet L=4.05E-6 W=7.19E-6
T10 (net18 net1 net1 0) pfet L=6.96E-6 W=4.63E-6
T11 (net12 net2 net2 0) pfet L=9.53E-6 W=3.54E-6
R12 ( net11 net4)  R=2.1E3
T13 ( net4 net4 net12 0)  nfet  L=5.45E-6 W=2.00E-6
T14 ( net12 net7 0 0)  nfet  L=5.45E-6 W=2.00E-6
T15 ( net7 net7 0 0)  nfet  L=5.45E-6 W=2.00E-6
T16 ( net4 net4 net7 0)  nfet  L=5.45E-6 W=2.00E-6
T17 (net1 0 0 0) nfet L=9.40E-6 W=2.23E-6
R18 (vdd! net19) R=4.0E0
T19 (net19 net11 net11 0) pfet L=8.60E-6 W=4.00E-6
R20 (net2 net5) R=3.4E4
T21 (net15 net1 net1 0) nfet L=1.57E-6 W=2.47E-6
T22 (net8 net14 net14 0) nfet L=6.02E-6 W=0.44E-6
R23 (net13 net1) R=9.8E0
T24 (net2 net13 net13 0) nfet L=6.23E-6 W=1.58E-6
T25 (net1 net9 net9 0) pfet L=7.56E-6 W=2.18E-6
C26 (0 net5) C=0.7E-11
R27 (net17 net14) R=7.2E1
T28 (net10 net13 net13 0) pfet L=3.76E-6 W=8.77E-6
T29 (net9 net10 net10 0) nfet L=3.58E-6 W=5.71E-6
R30 (net2 net16) R=6.6E4
T31 (net17 net17 net17 0) nfet L=5.47E-6 W=2.50E-6

