T1 ( net14 net14 0 0)  nfet  L=1.82E-6 W=2.45E-6
T2 ( net2 net14 0 0)  nfet  L=1.82E-6 W=2.45E-6
R3 ( net2 net5)  R=9.8E6
C4 (net3 net4) C=9.5E-9
C5 (net4 net17) C=0.9E-11
R6 (net13 net8) R=0.6E0
T7 (net4 net9 net9 0) pfet L=5.25E-6 W=2.89E-6
T8 ( net9 net9 0 0)  nfet  L=4.28E-6 W=5.93E-6
T9 ( net7 net9 0 0)  nfet  L=4.28E-6 W=5.93E-6
R10 ( net7 net11)  R=2.3E5
R11 (net13 net8) R=9.7E2
T12 (net12 net1 net1 0) pfet L=2.46E-6 W=0.48E-6
R13 (vdd! net6) R=2.0E5
C14 (net9 net15) C=9.1E-5
R15 (net12 net9) R=7.4E5
R16 (net13 net16) R=8.9E1
T17 (net6 net15 net15 0) nfet L=3.15E-6 W=1.33E-6
T18 (net12 net5 net5 0) pfet L=6.95E-6 W=2.85E-6
C19 (net9 net16) C=3.1E-13
R20 (net16 net6) R=1.0E4
T21 (net18 net15 net15 0) nfet L=8.13E-6 W=9.69E-6
T22 (net8 net9 net9 0) nfet L=9.55E-6 W=8.05E-6
T23 (net5 net4 net4 0) nfet L=8.88E-6 W=7.16E-6
T24 (0 net3 net3 0) pfet L=4.48E-6 W=8.10E-6
T25 (net17 net8 net8 0) pfet L=6.22E-6 W=1.67E-6
T26 (net11 net3 net3 0) pfet L=5.63E-6 W=1.98E-6
C27 (net6 net11) C=3.3E-11
T28 (net18 net14 net14 0) pfet L=8.18E-6 W=0.39E-6
C29 (net3 net14) C=8.5E-12
R30 (net4 net12) R=3.5E6
C31 (net18 net9) C=4.0E-14
T32 (net4 net6 net6 0) nfet L=9.03E-6 W=4.00E-6
C33 (net13 net1) C=1.2E-6
T34 (net16 net14 net14 0) nfet L=8.76E-6 W=2.98E-6
C35 (net6 net16) C=1.4E-14
T36 (net11 net18 net18 0) pfet L=6.60E-6 W=4.68E-6
T37 (net13 net15 net15 0) nfet L=3.57E-6 W=3.78E-6
T38 (net5 net11 net11 0) nfet L=5.12E-6 W=2.01E-6
R39 (net3 net8) R=0.7E0
R40 (net16 net5) R=3.9E2
T41 (net10 net4 net4 0) nfet L=0.40E-6 W=1.25E-6
R42 (net6 net5) R=5.1E0
R43 (net10 net8) R=8.4E1
T44 (vdd! net3 net3 0) nfet L=8.40E-6 W=6.38E-6
T45 (0 net15 net15 0) nfet L=8.82E-6 W=0.45E-6
T46 (net8 net11 net11 0) nfet L=2.43E-6 W=0.62E-6
C47 (net9 net15) C=5.4E-7
R48 (net3 net9) R=0.5E1
T49 (net15 net15 net15 0) nfet L=2.58E-6 W=1.72E-6
T50 (net4 net13 net13 0) pfet L=0.46E-6 W=6.26E-6
C51 (net11 net13) C=3.6E-5
C52 (net11 net16) C=2.2E-14
R53 (net5 net11) R=8.8E4
T54 (net17 net4 net4 0) pfet L=4.88E-6 W=7.87E-6
T55 (net8 net13 net13 0) nfet L=5.33E-6 W=2.31E-6
C56 (vdd! net14) C=7.2E-11

