T1 ( net11 net11 0 0)  nfet  L=3.19E-6 W=0.16E-6
T2 ( net13 net11 0 0)  nfet  L=3.19E-6 W=0.16E-6
R3 ( net13 net17)  R=8.8E2
C4 (net11 net4) C=0.5E-5
T5 ( net11 net11 0 0)  nfet  L=7.84E-6 W=1.87E-6
T6 ( net16 net11 0 0)  nfet  L=7.84E-6 W=1.87E-6
R7 ( net16 net5)  R=3.3E0
C8 (net15 net14) C=2.3E-9
T9 (net15 net6 net6 0) nfet L=0.75E-6 W=8.61E-6
C10 (net15 net12) C=2.5E-9
T11 (net9 net2 net2 0) pfet L=4.24E-6 W=0.75E-6
C12 (net7 vdd!) C=7.9E-11
T13 (net4 net11 net11 0) pfet L=7.76E-6 W=3.30E-6
C14 (net12 net8) C=8.6E-7
T15 (0 net5 net5 0) pfet L=9.05E-6 W=5.35E-6
T16 (net10 net3 net3 0) pfet L=8.27E-6 W=5.43E-6
C17 (net14 0) C=6.5E-11
C18 (net6 net1) C=4.1E-5
T19 (vdd! net3 net3 0) pfet L=1.21E-6 W=5.14E-6
T20 (net15 net4 net4 0) nfet L=5.08E-6 W=3.04E-6
T21 (net11 net3 net3 0) nfet L=9.03E-6 W=6.51E-6
T22 (vdd! net17 net17 0) pfet L=6.12E-6 W=9.94E-6
R23 (net7 net17) R=9.6E1
T24 (net5 vdd! vdd! 0) pfet L=3.32E-6 W=2.52E-6
C25 (net5 net1) C=3.8E-5
T26 (net14 net14 net14 0) pfet L=8.42E-6 W=5.43E-6
R27 (net1 net12) R=6.3E5
C28 (net6 net14) C=4.4E-7
T29 (vdd! net7 net7 0) nfet L=4.56E-6 W=1.74E-6
C30 (net1 net15) C=7.2E-9
C31 (net12 net11) C=2.2E-10
R32 (net1 net3) R=4.7E4

