T1 (net10 net18 net18 0) pfet L=1.95E-6 W=9.08E-6
T2 (net17 net9 net9 0) pfet L=6.45E-6 W=0.45E-6
R3 (net12 net18) R=7.5E2
R4 ( net4 net10)  R=2.7E0
T5 ( net10 net10 0 0)  nfet  L=8.89E-6 W=6.81E-6
T6 ( net18 net10 0 0)  nfet  L=8.89E-6 W=6.81E-6
T7 (net16 net6 net6 0) pfet L=7.17E-6 W=0.70E-6
R8 (net11 net4) R=1.6E0
R9 (net3 net14) R=1.3E4
T10 (net5 net18 net18 0) nfet L=7.63E-6 W=7.71E-6
R11 (0 net15) R=1.1E0
R12 ( net19 net11)  R=5.9E1
T13 ( net11 net11 vdd! vdd!)  pfet  L=8.75E-6 W=9.30E-6
T14 ( net9 net11 vdd! vdd!)  pfet  L=8.75E-6 W=9.30E-6
C15 (net14 net16) C=1.8E-6
T16 (net14 vdd! vdd! 0) nfet L=7.61E-6 W=7.79E-6
T17 (net14 net19 net19 0) pfet L=5.06E-6 W=4.35E-6
T18 (net1 vdd! vdd! 0) pfet L=9.14E-6 W=2.82E-6
R19 (net1 net16) R=8.6E0
T20 (net19 net9 net9 0) pfet L=0.23E-6 W=5.31E-6
T21 (net15 net2 net2 0) pfet L=6.67E-6 W=1.66E-6
C22 (net14 net2) C=4.8E-10
R23 (net5 net15) R=5.6E6
C24 (0 net6) C=4.0E-14
T25 (net16 net13 net13 0) pfet L=9.46E-6 W=2.52E-6
C26 (net15 vdd!) C=0.4E-11
T27 (net19 net1 net1 0) pfet L=1.62E-6 W=0.50E-6
C28 (0 net12) C=3.5E-8
R29 (net18 net13) R=1.8E1
C30 (net2 net5) C=3.1E-7
T31 (net1 net19 net19 0) nfet L=0.55E-6 W=1.62E-6
C32 (net5 0) C=2.0E-5
T33 (net13 net15 net15 0) nfet L=8.11E-6 W=9.82E-6
R34 (net18 net7) R=0.6E4
C35 (net13 net3) C=8.9E-11
C36 (net13 net9) C=4.7E-13
T37 (net17 net19 net19 0) nfet L=4.25E-6 W=4.46E-6
T38 (net6 net1 net1 0) pfet L=8.27E-6 W=0.22E-6
T39 (net19 net12 net12 0) nfet L=8.36E-6 W=1.78E-6
T40 (net8 net18 net18 0) pfet L=1.89E-6 W=7.46E-6
R41 (net1 net2) R=8.3E0
T42 (net13 vdd! vdd! 0) nfet L=3.30E-6 W=7.23E-6
C43 (net15 net16) C=6.4E-6
R44 (net16 net2) R=6.6E1
R45 (net7 net6) R=9.0E4
T46 (net19 net2 net2 0) nfet L=9.71E-6 W=3.07E-6
T47 (net8 net18 net18 0) nfet L=8.42E-6 W=9.44E-6
T48 (net16 net16 net16 0) nfet L=9.44E-6 W=5.00E-6
T49 (net7 net1 net1 0) pfet L=9.81E-6 W=1.42E-6
C50 (vdd! net17) C=6.2E-12
C51 (net19 net18) C=7.4E-13
T52 (net4 vdd! vdd! 0) nfet L=6.10E-6 W=6.30E-6
C53 (net7 net18) C=8.5E-9
T54 (net16 vdd! vdd! 0) nfet L=8.22E-6 W=0.27E-6
C55 (net17 net4) C=2.0E-11
C56 (net13 net17) C=1.4E-13
C57 (0 net17) C=9.0E-10

